US07776875B2
Preparation of Racemic (2′S,3S,4′R)-6-chloro-4′-[5-isopropenyl-2-(3-methyl-oxetan-3-ylmethoxy)-phenyl]-2′-(5-chloro-2-methyl-phenyl)-spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
To a mixture of racemic (2′S,3S,4′R)-4′-[5-bromo-2-(3-methyl-oxetan-3-ylmethoxy)-phenyl]-6-chloro-2′-(5-chloro-2-methyl-phenyl)-spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (50 mg, 0.08 mmol), isopropenylboronic acid pinacol ester (40 mg, 0.24 mmol) and K3PO4 (50 mg, 0.24 mmol) in THF was added Pd(PPh3)4 (15 mg). The mixture was heated at 80° C. for 8 h under an argon atmosphere, purified by prep-HPLC to give the title compound as a white solid (6 mg).

reactant | racemic (2′S,3S,4′R)-4′-[5-bromo-2-(3-methyl-oxetan-3-ylmethoxy)-phenyl]-6-chloro-2′-(5-chloro-2-methyl-phenyl)-spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.08 mmol, 50 mg | BrC=1C=CC(=C(C1)C1C2(C(NC(C1)=O)C1=C(C=CC(=C1)Cl)C)C(NC1=CC(=CC=C12)Cl)=O)OCC1(COC1)C | C30H27BrCl2N2O4
reactant | isopropenylboronic acid pinacol ester | 0.24 mmol, 40 mg | C(=C)(C)B1OC(C)(C)C(C)(C)O1 | C9H17BO2
reactant | K3PO4 | 0.24 mmol, 50 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | THF | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)4 | 15 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Racemic (2′S,3S,4′R)-6-chloro-4′-[5-isopropenyl-2-(3-methyl-oxetan-3-ylmethoxy)-phenyl]-2′-(5-chloro-2-methyl-phenyl)-spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 6 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)C(=C)C)OCC1(COC1)C)=O)C1=C(C=CC(=C1)Cl)C)=O | C33H32Cl2N2O4
